US07211586B2
(a) 3-(Pyrid-4-yl)-3-{((2-o-tolylamino-benzoxazol-6-yl)-acetyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl}-propanoic acid ethyl ester, enantiomer A
A solution of 2-o-tolylaminobenzoxazole-6-acetic acid (0.124 g) and diisopropylethylamine (0.17 g) in dimethylformamide (2 mL) was treated with a solution of O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (0.183 g) in dimethylformamide. After 10 minutes at room temperature this yellow solution was added dropwise to a rapidly stirred solution of 3-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-3-(pyrid-4-yl)-propionic acid ethyl ester, enantiomer A {0.219 mmoles, Reference Example 17(a)} in dimethylformamide. After stirring at room temperature for 2.5 hours the reaction mixture was evaporated. The residual oil was dissolved in a mixture of acetonitrile, water and trifluoroacetic acid (25:75:0.1) and treated with dimethylformamide and trifluoroacetic acid to bring to pH2. This mixture was subjected to preparative HPLC {Hypersil Elite C18 column, 10 cm×2.1 cm, using a mixture of acetonitrile, water and trifluoroacetic acid (25:75:0.1) as the mobile phase followed by a 1% acetonitrile/minute gradient) to give the title compound. LC-MS:MS (ES)=575 (M+H)+, 573 (M−H)−.

reactant | 2-o-tolylaminobenzoxazole-6-acetic acid | 0.124 g | C1(=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)O)C | C16H14N2O3
reactant | diisopropylethylamine | 0.17 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.183 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-3-(pyrid-4-yl)-propionic acid ethyl ester | C(C)OC(CC(C1=CC=NC=C1)C1=CC=C2CCNCC2=C1)=O | C19H22N2O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-(Pyrid-4-yl)-3-{((2-o-tolylamino-benzoxazol-6-yl)-acetyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl}-propanoic acid ethyl ester | C(C)OC(CC(C1=CC=C2CCNC(C2=C1)C(CC1=CC2=C(N=C(O2)NC2=C(C=CC=C2)C)C=C1)=O)C1=CC=NC=C1)=O | C35H34N4O4
